Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ciprofloxacin / sulfa / Flagyl
 
Attending: ___.
 
Chief Complaint:
pulmonary embolism
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ female with history of ___
disease who presented from ___ with pulmonary embolism.

History obtained from husband due to patient's severe dementia

She was in her usual state of health, at baseline has severe
dementia and is typically AO×1, lives at home and goes to an
___ day care facility, until one day prior to admission
when her husband noticed she had a swollen LLE to the knee and
brought her into the ___ emergency room for further
evaluation. 

During this episode she did not have any chest pain, shortness 
of
breath, pleuritic pain, nausea, vomiting, abdominal pain, fever,
chills, changes in bowel movements, changes in urination. No
cancer history, though had discontinued cancer screenings such 
as
colonoscopy and mammograms per goals of care discussion with
family. No recent surgery or travel.

At ___, she developed hypoxia to mid ___  which 
responded
well to nasal oxygen.  Her EKG showed no significant ___ wave
changes compared with the old EKG.  Troponin was 0.16 and BNP 
was
40.  CT PA was consistent with extensive acute pulmonary emboli
throughout both lungs, acute pulmonary emboli in the distal 
right
central pulmonary artery, with signs of right heart strain.  She
was hemodynamically stable.  She was started on a heparin drip
and transferred to ___ for treatment of PE. 

In the ED, initial vitals were: 98.7 94 118/76 19 97% RA 
- Exam notable for: decreased breath sounds bilaterally, but
breathing comfortably on 2L  
- Labs notable for:  BNP 375, trop 0.21
- Imaging was notable for:  
- Patient was given: continuous heparin drip of 920 units/hour 
 

Upon arrival to the floor, patient reports no acute symptoms no
shortness of breath, no chest pain, no pleuritic pain.  Her
husband confirms the history above.

Also notes she had an unwitnessed fall 1 week prior to 
admission.
 
Past Medical History:
Alzheimer disease
Benign fibroid surgery ___

 
Social History:
___
Family History:
Mother with history of ___ disease in her ___, no family
history of blood clots
 
Physical Exam:
ADMISSION EXAM
==================
VITAL SIGNS:  98.8 123/72 91 17 94 Ra   
GENERAL: ___ woman, comfortable, no acute distress
HEENT: Pupils equal, moist mucous membranes, nonerythematous
oropharynx
NECK: JVP at 12, supple
CARDIAC: Normal S1/S2, no murmurs rubs or gallops
LUNGS: Decreased respiratory effort, no increased work of
breathing, clear to auscultation bilaterally, no wheezes,
crackles, or rhonchi
ABDOMEN: Normal bowel sounds, soft, nondistended, nontender
EXTREMITIES: No edema appreciated, 2+ peripheral pulses 
symmetric
bilaterally
NEUROLOGIC: AO×1, awake and alert, able to communicate
appropriately, cannot recall morning events, able to follow
commands, moves all extremities bilaterally (at baseline per
family)
SKIN: No rashes or bruises

DISCHARGE EXAM
==================
VITAL SIGNS: 99.2 122/73 87 16 90 Ra 
GENERAL: ___ woman, comfortable, no acute distress
HEENT: Pupils equal, moist mucous membranes, nonerythematous
oropharynx
NECK: JVP at 10, supple
CARDIAC: Normal S1/S2, no murmurs rubs or gallops
LUNGS: Decreased respiratory effort, no increased work of
breathing, clear to auscultation bilaterally, no wheezes,
crackles, or rhonchi
ABDOMEN: Normal bowel sounds, soft, nondistended, nontender
EXTREMITIES: No edema appreciated, 2+ peripheral pulses 
symmetric
bilaterally
NEUROLOGIC: AOx1, awake and alert, able to communicate
appropriately, cannot recall morning events, able to follow
commands, moves all extremities bilaterally (at baseline per
family)
SKIN: No rashes or bruises
 
Pertinent Results:
ADMISSION LABS
===============
___ 02:51PM   ___
___ 11:20PM   ___
___ 08:55AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 11:59AM   K+-4.0
___ 08:55AM   ___
___ 08:55AM   ___
___ 08:55AM   ___ 
___
___ 08:55AM   ___ ___

IMAGING
===============
CTPA (___) ___
FINDINGS: The heart is top normal in size. The RV/LV ratio is
approximately 4.8/2.8. There is no coronary calcification. There
are small pockets of pericardial fluid without evidence of a
circumferential pericardial fluid collection. There is no
mediastinal or hilar nodal enlargement. There is mild aortic
atherosclerotic calcification without aneurysmal dilatation or
dissection. There are bilateral acute pulmonary emboli. There is
clot in the distal right main pulmonary artery in association
with saddle emboli involving the upper lobe, middle lobe, and
lower lobe pulmonary artery bifurcations with occlusive or near
occlusive thrombus within lobar, segmental, and subsegmental
arteries. On the left side the left main pulmonary is not in
involvement but the lobar and segmental arteries are involved.
There is relatively mild bilateral atelectasis. There is no 
focal
infiltrate suspicious for an acute infarction or infection. 
There
is no focal pulmonary mass. There is no dominant or suspicious
pulmonary nodule. There is minimal left pleural fluid. There is
no right pleural effusion. There is no pneumothorax on either
side.

TTE ___
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). There is no ventricular septal defect. The right 
ventricular cavity is mildly dilated with mild global free wall 
hypokinesis. There is abnormal septal motion/position. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Trace aortic regurgitation is 
seen. The mitral valve appears structurally normal with trivial 
mitral regurgitation. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion.  

___
FINDINGS: 
 
There is normal compressibility, flow, and augmentation of the 
bilateral
common femoral, femoral, and popliteal veins. Normal color flow 
and
compressibility are demonstrated in the posterior tibial and 
peroneal veins.
 
There is normal respiratory variation in the common femoral 
veins bilaterally.
 
No evidence of medial popliteal fossa (___) cyst.
 
IMPRESSION: No evidence of deep venous thrombosis in the right 
or left lower extremity
veins.
 
DISCHARGE LABS
===============

___ 06:25AM BLOOD ___ 
___ Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD ___ 
___
 
Brief Hospital Course:
Key Information for Outpatient Providers:================
PATIENT SUMMARY:
================

___ female with history of ___ disease who 
presented initially to ___ for LLE swelling, found to 
have pulmonary embolism with right heart strain on CTPA, started 
on heparin drip and transferred to ___ for further evaluation. 


=============
ACUTE ISSUES:
=============
#Pulmonary Embolism: Hemodynamically stable throughout 
admission. Presented initially to ___ for left lower 
extremity swelling, no dyspnea. Found at ___ to have 
extensive acute pulmonary emboli throughout both lungs on CTPA 
done on ___, and concern for right heart strain based on size 
of RV. She was started on heparin gtt and transferred to ___. 
Additionally had elevated troponin to 0.21 without ischemic 
changes on EKG, with troponin downtrending to 0.17. She was seen 
by the ___ Cardiology team who determined no need for 
procedure at this time as she was clinically stable. After 
discussion with family, decision was made to start apixiban and 
heparin was discontinued on ___. She additionally underwent 
ultrasound of her lower extremities which showed no DVTs and TTE 
which showed preserved ejection fraction. Left lower extremity 
swelling improved to normal after heparin gtt. She was initially 
on 2L O2 on admission, and weaned off to room air with 
ambulatory oxygen saturation 92%-94% on discharge. 
Anticoagulation plan is 7day apixiban 10 mg BID load started on 
___ to finish on ___, followed by apixiban 5mg BID for 
___ months or as instructed by primary care physician. 

===============
CHRONIC ISSUES:
===============
# ___ disease: At baseline unable to recall earlier
events of the day, lives with husband and attends
___ daycare. Continued home regimen duloxetine 20, 
memantine 10, rivastygmine 9.5

#Unwitnessed fall: per husband had unwitnessed fall 1 week prior
to admission, reports mental status has remained at baseline 
both prior to and throughout admission.

====================
TRANSITIONAL ISSUES:
====================

TRANSITIONAL ISSUES: 
- New Meds: Apixaban 10 mg BID until ___, then apixiban 5 mg 
BID for 6 months or per PCP instructions
- ___ Meds: none 
- Changed Meds: none 
- ___ Labs Needed: none 

# CODE: DNR/DNI (confirmed)
# CONTACT: ___ husband, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. rivastigmine 9.5 mg/24 hr transdermal DAILY 
2. Memantine 10 mg PO BID 
3. DULoxetine 20 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 6 Days 
Continue taking until ___ 
RX *apixaban [Eliquis] 5 mg ___ tablet(s) by mouth twice daily  
as directed Disp #*72 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
Start taking on ___  
3.  DULoxetine 20 mg PO DAILY  
4.  Memantine 10 mg PO BID  
5.  rivastigmine 9.5 mg/24 hr transdermal DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
======================
Pulmonary Embolism
SECONDARY DIAGNOSIS
=====================
___ Disease
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
-You were admitted to ___ for a pulmonary 
embolism

WHAT HAPPENED IN THE HOSPITAL?
-Your treated with a blood thinner called heparin which was 
changed over to apixaban before you left.
-We checked your oxygen while you are walking which was normal.
-We did an ultrasound to look for blood clots in your legs and 
did not find any blood clots.

WHAT SHOULD YOU DO AT HOME?
-Please continue to take the apixaban 10 mg (2 pills) twice per 
day until ___.  On ___ please start taking the 
apixaban 5 mg (1 pill) twice per day until otherwise instructed 
by her primary care physician.
-Please see your primary care physician ___ on 
___, ___.
-If you develop shortness of breath or chest pain, please be 
seen in urgent care or the emergency department.

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team
 
Followup Instructions:
___